US05091531
a) 3,5-Dimethoxy-4-ethoxybenzaldehyde
A mixture of syringaldehyde (50 g, 0.275 mol), ethyl iodide (85.8 g, 0.55 mol) and potassium carbonate (151.7 g, 1.09 mol) in DMF (60 ml) was stirred and heated at 60°-70° for 6 h. The mixture was cooled and evaporated in vacuo then treated with water and extracted with diethyl ether. The extracts were dried (Na2SO4) and evaporated to give the title compound (59 g) as a white solid, pure by tlc, and used without further purification.

reactant | syringaldehyde | 0.275 mol, 50 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | ethyl iodide | 0.55 mol, 85.8 g | C(C)I | C2H5I
reactant | potassium carbonate | 1.09 mol, 151.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethoxy-4-ethoxybenzaldehyde | 59 g | COC=1C=C(C=O)C=C(C1OCC)OC | C11H14O4
